US07105507B2
2,2-Dimethyl-1-oxa-8-azaspiro[4.5]decane
Trifluoroacetic acid (10 mL) was added to a solution of 1,1-dimethylethyl 4-hydroxy-4-(3-hydroxy-3-methylbut-1-yl)-1-piperidinecarboxylate (Description 80, 3.9 g, 13.57 mmol) in dichloromethane (10 mL) and the mixture was stirred at room temperature overnight. The solvent was evaporated under reduced pressure and the residue was purified by flash column chromatography on silica gel, eluting with CH2Cl2/MeOH/NH3(Aq.) (90:10:1) to give the title compound (2.04 g, 89%). m/z (ES+) 170 (M+1).

reactant | Trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1,1-dimethylethyl 4-hydroxy-4-(3-hydroxy-3-methylbut-1-yl)-1-piperidinecarboxylate | 13.57 mmol, 3.9 g | OC1(CCN(CC1)C(=O)OC(C)(C)C)CCC(C)(C)O | C15H29NO4
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2,2-Dimethyl-1-oxa-8-azaspiro[4.5]decane | 2.04 g, 89% | CC1(OC2(CC1)CCNCC2)C | C10H19NO
